US04139697
An aqueous slurry of a vinyl chloride-vinyl acetate copolymer was prepared by heating in an autoclave at 65° C. for 18 hours a polymerization system that contained 85 parts of vinyl chloride, 15 parts of vinyl acetate, 185 parts of deionized water, 0.125 part of dilauroyl peroxide, 1.75 parts of gelatin, and 0.69 part of trichloroethylene. The slurry was heated under vacuum at a temperature below 65° C. to reduce its vinyl chloride content to less than 5000 ppm.

reactant | vinyl chloride | C(=C)Cl | C2H3Cl
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
reactant | dilauroyl peroxide | C(CCCCCCCCCCC)(=O)OOC(CCCCCCCCCCC)=O | C24H46O4
reactant | trichloroethylene | ClC=C(Cl)Cl | C2HCl3
solvent | water | O | H2O
product | vinyl chloride-vinyl acetate copolymer | CC(=O)OC=C.C=CCl | InChI=1S/C4H6O2.C2H3Cl/c1-3-6-4(2)5;1-2-3/h3H,1H2,2H3;2H,1H2
